### PR TITLE
feat: verify partition for hashmaps

### PR DESCRIPTION
**Pull request by jt0202**
This PR verifies the partition function for hashmaps.

### CODE REVIEW

**Comment by jt0202** [comment]
The approach here is to reuse the lemmas of the filter results as shown here for two example. ~~This hinges on two lemmas I cant prove right now~~, but I am pretty sure they should hold. Please ignore the style violations for now; I will fix the unsqueezed simps and long lines later. Suggestions for name are appreciated though.

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 1]
```diff
@@ -5545,6 +5545,238 @@ end Const
...
+    by_cases hhd : p hd.fst hd.snd = true
+    · simp [hhd]
+      apply ih _ _ (WF.insert h₁) h₂
+    · simp [hhd]
+      apply ih _ _ h₁ (WF.insert h₂)
+
+
+theorem Perm_helper {α : Type u} (l1 l2 : List α) (h₁ : l1.Nodup) (h₂ : l2.Nodup) (h₃ : ∀ (a : α), a ∈ l1 ↔ a ∈ l2) :
+    l1.Perm l2 := by
+  sorry
```
Comment (jt0202) [inline src/Std/Data/DHashMap/RawLemmas.lean]: It would be nice to use the count lemma for perm, but this requires `LawfulBEq`. It seems I have to write my own function for that.

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 2]
```diff
@@ -5545,6 +5545,238 @@ end Const
...
+
+theorem neg_mem_toList_empty [EquivBEq α] [LawfulHashable α] {x : (a : α) × β a} : ¬ x ∈ (∅ : Raw α β).toList := by
+  have := isEmpty_toList (α := α) (β := β) (m := ∅) WF.empty
+  simp only [isEmpty_empty, List.isEmpty_iff] at this
+  simp [this]
+
+theorem mem_toList_insert [EquivBEq α] [LawfulHashable α] (h : m.WF) {k : α} {v : β k} {x : (a : α) × β a} (h' : ¬ k ∈ m) :
+    x ∈ (m.insert k v).toList ↔ x ∈ m.toList ∨ x = ⟨k, v⟩ := by
+  sorry
```
Comment (jt0202) [inline src/Std/Data/DHashMap/RawLemmas.lean]: This is a bit tricky as the `insert` is in the argument of a '`toListModel` call.

Comment (jt0202) [reply src/Std/Data/DHashMap/RawLemmas.lean]: It would again be possible assuming `LawfulBEq` using the existing lemmas.

File: src/Std/Data/DHashMap/RawLemmas.lean (hunk 1 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/RawLemmas.lean]: This is done, but it should it live in a different file and I am not sure about the names.

File: src/Std/Data/DHashMap/RawLemmas.lean (hunk 2 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/RawLemmas.lean]: Done by force for now.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 51b67385cc0cd2613764ee4607957fef1f06128b --onto b0e6db322421ce368999f08870fd747e45242f86`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-25 23:27:26)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 54fbe931ab77351ccba28aa7c03f22c717ba0681 --onto 0173444d24df9253d7947cfe82519e4a6caffd3a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-04 08:27:57)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 54fbe931ab77351ccba28aa7c03f22c717ba0681 --onto dd28f005889dd2fcca6fe0638133de561a655ad1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-04 22:05:37)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 6a0b0c8273ab560d093494a2daa4dd3088437ad1 --onto fb6c96e54bc3b27fb7d7fbd1c7c2bfa950af2837`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-15 07:50:59)

**Comment by jt0202** [comment]
Open question: Do we want to provide all lemmas for both results of partitions as seen here or just provide the equiv results and let the user build it themselves?

**Comment by jt0202** [comment]
awaiting-review

**Comment by jt0202** [comment]
changelog-library

File: src/Std/Data/DHashMap/Raw.lean [hunk 3]
```diff
@@ -527,6 +527,15 @@ section Unverified
 
 /-! We currently do not provide lemmas for the functions below. -/
 
+/-- Partition a hash map into two hash map based on a predicate. -/
+@[inline] def partition [BEq α] [Hashable α] (f : (a : α) → β a → Bool)
+    (m : Raw α β) : Raw α β × Raw α β :=
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Raw.lean:555]: This should be defined on `Raw0` instead of `Raw`, because your current implementation does a size check in every iteration.

File: src/Init/Data/List/Perm.lean [hunk 4]
```diff
@@ -527,6 +527,73 @@ theorem Perm.nodup {l l' : List α} (hl : l ~ l') (hR : l.Nodup) : l'.Nodup := h
 theorem Perm.nodup_iff {l₁ l₂ : List α} : l₁ ~ l₂ → (Nodup l₁ ↔ Nodup l₂) :=
   Perm.pairwise_iff <| @Ne.symm α
 
+theorem Perm.of_nodup_of_nodup_of_forall_mem_iff_mem {α : Type u} (l₁ l₂ : List α)
+    (h₁ : l₁.Nodup) (h₂ : l₂.Nodup) (h₃ : ∀ (a : α), a ∈ l₁ ↔ a ∈ l₂) :
+    l₁.Perm l₂ := by
```
Comment (jt0202) [inline src/Init/Data/List/Perm.lean]: I noticed that this exists in batteries in a stronger form under [List.perm_ext_iff_of_nodup](https://leanprover-community.github.io/mathlib4_docs/Batteries/Data/List/Perm.html#List.perm_ext_iff_of_nodup) . Not sure how much to upstream.

File: src/Init/Data/List/Perm.lean [hunk 5]
```diff
@@ -532,6 +532,73 @@ theorem Perm.nodup {l l' : List α} (hl : l ~ l') (hR : l.Nodup) : l'.Nodup := h
...
+          | inr h₃ =>
+            apply h₃
+        | inr h' =>
+          simp only [h', or_true, iff_true] at h₃
+          cases h₃ with
+          | inl h₃ =>
+            have := (h₂.2.1.1)
+            simp [← h₃, h'] at this
+          | inr h₃ =>
+            apply h₃
```
Comment (TwoFX) [inline src/Init/Data/List/Perm.lean:600]: Shorter proof:
```suggestion
  induction l₁ generalizing l₂ with
  | nil => simp_all [List.eq_nil_iff_forall_not_mem]
  | cons hd tl ih =>
    classical
    simp only [mem_cons] at h₃
    refine (Perm.trans ((perm_cons _).2 ?_) (perm_cons_erase ((h₃ hd).1 (Or.inl rfl))).symm)
    exact ih _ h₁.tail (h₂.erase _) (by simpa [h₂.mem_erase_iff, ← h₃, and_or_left] using
      fun _ => (ne_of_mem_of_not_mem · (List.nodup_cons.1 h₁).1)
```
The `iff` version in batteries follows as a one-liner, might as well upstream it.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 6]
```diff
@@ -1056,6 +1056,20 @@ theorem distinct_keys_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
...
+
+theorem mem_toList_insert_of_contains_eq_false [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {k : α} {v : β k} {x : (a : α) × β a} (h' : m.contains k = false) :
+    x ∈ (m.insert k v).1.toList ↔ x = ⟨k, v⟩ ∨ x ∈ m.1.toList := by
+  rw [contains_eq_containsₘ] at h'
+  simp [Raw.toList, insert_eq_insertₘ, insertₘ, h', Bool.false_eq_true, ↓reduceIte,
+    Raw.foldRev_cons, List.append_nil]
+  rw [List.Perm.mem_iff (toListModel_expandIfNecessary (consₘ m k v))]
+  rw [List.Perm.mem_iff (toListModel_consₘ m (Raw.WF.out h) k v)]
+  simp
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1071]: Surely this should look something like
```lean
theorem toList_insert_perm_of_contains_eq_false [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
    {k : α} {v : β k} :
    m.contains k = false → (m.insert k v).1.toList.Perm (⟨k, v⟩ :: m.1.toList) := by
  simp_to_model using fun h' => (toListModel_insert _).trans (List.Perm.of_eq (List.insertEntry_of_containsKey_eq_false h'))
  simp [Raw.WF.out h]

theorem mem_toList_insert_of_contains_eq_false [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
    {k : α} {v : β k} {x : (a : α) × β a} (h' : m.contains k = false) :
    x ∈ (m.insert k v).1.toList ↔ x = ⟨k, v⟩ ∨ x ∈ m.1.toList := by
  simp [(toList_insert_perm_of_contains_eq_false _ h h').mem_iff]
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 7]
```diff
@@ -5191,6 +5227,182 @@ end Const
 
 end map
 
+section partition
+
+theorem size_partition [EquivBEq α] [LawfulHashable α] {p : (a : α) → β a → Bool} (h : m.1.WF) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:5232]: This should follow from the `Equiv`s you prove below, I think. `List.length_countP_add_countP` and `List.countP_eq_length_filter` together with the `Equiv` material should get you there I think.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 8]
```diff
@@ -5191,6 +5227,182 @@ end Const
...
+    · simp only [hhd, ↓reduceIte, Bool.false_eq_true]
+      rw [ih]
+
+theorem snd_partition_not_eq_fst_partition [EquivBEq α] [LawfulHashable α]
+    {p : (a : α) → β a → Bool} :
+    (m.partition (fun a b => ! p a b)).snd = (m.partition p).fst := by
+  rw [← fst_partition_not_eq_snd_partition]
+  simp
+
+private theorem mem_toList_fst_partition [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:5303]: Going through `mem` here seems a bit roundabout. Have you considered starting like this:
```lean
theorem toList_fst_partition_perm [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
    {p : (a : α) → β a → Bool} :
    (m.partition p).1.1.toList.Perm (m.filter p).1.toList := by
  simp only [partition, fold_eq_foldl_toList]
  refine List.Perm.trans ?_ (toList_filter ..).symm
  generalize m.val.toList = l
  -- Then induction on `l`, probably.
```

File: src/Init/Data/List/Perm.lean (hunk 5 above)
Comment (jt0202) [reply src/Init/Data/List/Perm.lean]: They prove it a bit differently compared to here with a lot of intermediate lemmas. The question was more whether to take all these lemmas here as well. Adding the iff does not seem necessary to me as the other direction already exists.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 8 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:5264]: I haven't considered it before, but I tried it now. I am not convinced that this is easier. A simple induction does not work, because the sets one inserts into change during the evaluation and the list has to fulfill certain properties so that the structure of the proof looks the same.
Working with the Perm lemmas was complicated as well. I instead shortened the previous proof a bit.

**Comment by jt0202** [comment]
awaiting-review

File: src/Init/Data/List/Perm.lean (hunk 5 above)
Comment (jt0202) [reply src/Init/Data/List/Perm.lean]: This is now already upstreamed in #14211

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 9]
```diff
@@ -1093,6 +1093,68 @@ theorem wfImp_filter [BEq α] [Hashable α] [EquivBEq α] [LawfulHashable α] {m
   rw [filter_eq_filterₘ]
   exact wfImp_filterₘ h
 
+/-! # `partitionₘ` -/
+
+-- Note that there is no toList model here as we dont use the list model
+-- to prove theorems about partition, but instead use the theorems of the functions
+-- used in its definition
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean]: Sorry if we discussed this already, but do you recall why you/we made this decision? It seems to turn out quite well with the `toListModel` lemmas: https://github.com/TwoFX/lean4/commit/47b5eb523cadd7d39cfb53c72bbe355b17b9671f

Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/WF.lean]: I don't think we talked about this. I think I did this, because I had all the lemmas for filter and fold that I wanted and thus didn't see the reason to do it this way. Your solution works also, but I am not sure if its better than the current. But we can change this.

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/WF.lean]: I think I prefer doing it this way because it is more consistent with all other operations and it should hopefully remove the need for all complicated inductions in `RawLemmas.lean`. This should also save time when we increase the number of lemmas about `partition`.

Note that the commit I linked will require a bunch of cleanup: the lemmas need to be stated properly in terms of the model function, and they need to be wired up to the `simp_to_model` machinery.

Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/WF.lean]: Okay, I can do this. But I don't think we want to prove any further lemmas using this way as we already have the equivalence with filter, which should suffice to prove any interesting theorems.

Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/WF.lean]: Now almost all proofs are replaced by `simp_to_model`. The only exceptions is `fst_partition_not_eq_snd_partition` and `snd_partition_not_eq_fst_partition `, because they show equality between hash maps, which is not possible using `simp_to_model`.

**Comment by jt0202** [comment]
awaiting-review
